US05639914
8.2 g (0.061 mol) of acetanilide, 19.2 g (0.090 mol) of p-tertiarybutylbromobenzene, 9.95 g (0.072 mol) of anhydrous potassium carbonate, and 0.50 g (0.008 mol) of copper powder were mixed. The reaction mixture was then allowed to undergo reaction at a temperature of 190° C. to 203° C. for 23 hours. The reaction product was then extracted with 75 ml of toluene. The insoluble contents were removed by filtration. The filtrate was then concentrated to dryness. The concentrate was then dissolved in 30 ml of isoamyl alcohol. The material was then hydrolyzed with 1.1 g of water and 7.9 g (0.12 mol) of 85% potassium hydroxide at a temperature of 125° C. The material was then subjected to steam distillation to distill off isoamyl alcohol and excess p-tertiarybutylbromobenzene. The residue was extracted with 80 ml of toluene, washed with water, and then concentrated to dryness. The concentrate was then recrystallized from 100 ml of n-hexane to obtain 8.1 g (yield: 58.9%) of N-phenyl-p-tertiarybutylaniline.

reactant | acetanilide | 0.061 mol, 8.2 g | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
reactant | p-tertiarybutylbromobenzene | 0.090 mol, 19.2 g | C(C)(C)(C)C1=CC=C(C=C1)Br | C10H13Br
reactant | potassium carbonate | 0.072 mol, 9.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydroxide | 0.12 mol, 7.9 g | [OH-].[K+]
catalyst | copper | 0.008 mol, 0.50 g | [Cu] | Cu
solvent | water | 1.1 g | O | H2O
product | N-phenyl-p-tertiarybutylaniline | 8.1 g, yield: 58.9% | C1(=CC=CC=C1)NC1=CC=C(C=C1)C(C)(C)C | C16H19N
